US06900220B2
Pyridin-4-yl-carbamic acid tert-butyl ester (1.74 g, 8.95 mmol) (prepared as described in Venuti et al, J. Med. Chem. 1988, 31(11), 2136-45) dissolved in THF (150 mL) was cooled to −78° C. and a solution of 1.7M tert-butyllithium in hexanes (11.6 mL, 19.70 mmol) was added dropwise. After the addition, the stirring was continued for 1 h to −78° C. and the solution was then allowed to warm to −20° C. and stirred for an additional 3 h. The reaction was cooled again to −78° C. and tributyltin chloride (2.91 mL, 10.74 mmol) was added dropwise and the reaction was allowed to reach room temperature overnight. A saturated ammonium chloride solution was added and the product extracted with dichloromethane. The combined organics were dried over magnesium sulfate, the solvent was evaporated and residue purified by flash chromatography eluting with 20% ethyl acetate in hexanes to yield 2.12 g of (3-tributylstannyl-pyridin-4-yl)-carbamic acid tert-butyl ester.

reactant | Pyridin-4-yl-carbamic acid tert-butyl ester | 8.95 mmol, 1.74 g | C(C)(C)(C)OC(NC1=CC=NC=C1)=O | C10H14N2O2
reactant | tert-butyllithium | 1.7M | C(C)(C)(C)[Li]
reactant | tributyltin chloride | 10.74 mmol, 2.91 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (3-tributylstannyl-pyridin-4-yl)-carbamic acid tert-butyl ester | 2.12 g | C(C)(C)(C)OC(NC1=C(C=NC=C1)[Sn](CCCC)(CCCC)CCCC)=O | InChI=1S/C10H13N2O2.3C4H9.Sn/c1-10(2,3)14-9(13)12-8-4-6-11-7-5-8;3*1-3-4-2;/h4,6-7H,1-3H3,(H,11,12,13);3*1,3-4H2,2H3;
